US05240925
c. Preparation of 1-[2-(4-Chlorophenyl)-2-cyano-4-(2-thienyl)butyl]-1,2,4-triazole
To a flask under a nitrogen atmosphere was added, with stirring, 1.5 g. (0.036 mole) of 60% sodium hydride, washed twice with hexane to remove the original mineral oil, in 30 ml. of dry DMF. To this slurry at room temperature was added 3.36 g. (12.8 mmoles) of 2-(4-chlorophenyl)-4-(2-thienyl)butyronitrile in 30 ml. of DMF over 10 minutes. After stirring for 30 minutes, 2.15 g. (14.08 mmoles) of 1-(chloromethyl)-1,2,4-triazole hydrochloride was added in two portions and stirred for another 60 minutes. Water, 20 ml., was then added followed by 100 ml. of ether. The ether layer was washed twice with 50 ml. portions of water and the water washes further extracted with 50 ml. of ether. The combined ether extracts were chromatographed on 50 g. of silica gel. The product was eluted with ethyl acetate yielding 1.17 g. of product as a thick brown oil.

reactant | sodium hydride | 0.036 mole | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-4-(2-thienyl)butyronitrile | 12.8 mmoles | ClC1=CC=C(C=C1)C(C#N)CCC=1SC=CC1 | C14H12ClNS
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1-(chloromethyl)-1,2,4-triazole hydrochloride | 14.08 mmoles | Cl.ClCN1N=CN=C1
solvent | hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | 1-[2-(4-Chlorophenyl)-2-cyano-4-(2-thienyl)butyl]-1,2,4-triazole | ClC1=CC=C(C=C1)C(CN1N=CN=C1)(CCC=1SC=CC1)C#N | C17H15ClN4S
